US09447044B2
Step A: 4-isopropylsulfanyl-2-methyl-pyrimidine-5-carboxylic acid methyl ester
4-Chloro-2-methyl-pyrimidine-5-carboxylic acid methyl ester (0.105 g, 0.56 mmol) and 2-propanethiol were reacted in the same manner as in Step A of Preparation Example 16 to obtain the title compound (0.114 g, 90%).

reactant | 4-Chloro-2-methyl-pyrimidine-5-carboxylic acid methyl ester | 0.56 mmol, 0.105 g | COC(=O)C=1C(=NC(=NC1)C)Cl | C7H7ClN2O2
reactant | 2-propanethiol | CC(C)S | C3H8S
product | 4-isopropylsulfanyl-2-methyl-pyrimidine-5-carboxylic acid methyl ester | 0.114 g, 90% | COC(=O)C=1C(=NC(=NC1)C)SC(C)C | C10H14N2O2S
